US08877782B2
6-[3-(3-Chloro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-N-cyclopropyl-nicotinamide
As described for example 98b, 6-[3-(3-chloro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid (69 mg, 0.2 mmol) was converted, using cyclopropylamine instead of 2,2,2-trifluoroethylamine, to the title compound (55 mg, 72%) which was obtained as a white solid. MS: m/e=384.0 [M+H]+.

reactant | 6-[3-(3-chloro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid | 0.2 mmol, 69 mg | ClC=1C=C(C=CC1)C1=NOC(=C1COC1=NC=C(C(=O)O)C=C1)C | C17H13ClN2O4
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | 6-[3-(3-Chloro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-N-cyclopropyl-nicotinamide | 55 mg, 72% | ClC=1C=C(C=CC1)C1=NOC(=C1COC1=NC=C(C(=O)NC2CC2)C=C1)C | C20H18ClN3O3
